US06288082B1
4-(1H-Indol-5-ylamino)-7-methoxy-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 141, 1.0 g (4.57 mmol) of 4-chloro-7-methoxy-3-quinolinecarbonitrile, 724.8 mg (5.48 mmol) of 5-aminoindole and 528.3 mg (4.57 mmol) of 5-aminoindole in 35 mL of 2-ethoxyethanol was heated at 120° C. for 2 hr. The work up gave 1.38 g of the product as a greenish gray solid, m.p.>250° C., mass (electrospray, m/e): M+H 314.9 HRCIMS: calcd 314.117 for C19H14N4O (M+), obsd 314.1135.

reactant | 4-chloro-7-methoxy-3-quinolinecarbonitrile | 4.57 mmol, 1.0 g | ClC1=C(C=NC2=CC(=CC=C12)OC)C#N | C11H7ClN2O
reactant | 5-aminoindole | 5.48 mmol, 724.8 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | 5-aminoindole | 4.57 mmol, 528.3 mg | NC=1C=C2C=CNC2=CC1 | C8H8N2
solvent | 2-ethoxyethanol | 35 mL | C(C)OCCO | C4H10O2
product | 4-(1H-Indol-5-ylamino)-7-methoxy-quinoline-3-carbonitrile | N1C=CC2=CC(=CC=C12)NC1=C(C=NC2=CC(=CC=C12)OC)C#N | C19H14N4O
